US09119868B2
A suspension of 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)benzofuran-3-carboxamide (269 mg, 0.45 mmol), polymer-supported benzeneboronic acid (770 mg, 2.23 mmol), aqueous 5N HCl (0.62 mL, 3.12 mmol) in tetrahydrofuran (15 mL) was stirred at room temperature for 48 hours. The mixture was filtered, the filtrate was concentrated to dryness and purified by reverse phase HPLC to afford 3-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenylboronic acid (41 mg, 0.078 mmol, 17% yield) as a white solid. 1H NMR (METHANOL-d4) δ 7.99-7.95 (m, 2H), 7.94 (s, 1H), 7.77-7.38 (m, 4H), 7.32-7.25 (m, 3H), 3.32 (s, 3H), 2.98 (s, 3H), 2.29-2.25 (m, 1H), 1.10-0.37 (m, 4H). LCMS (m/z, ES+)=523 (M+H+).

reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)benzofuran-3-carboxamide | 0.45 mmol, 269 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C32H34BFN2O6S
reactant | benzeneboronic acid | 2.23 mmol, 770 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | HCl | 3.12 mmol, 5N, 0.62 mL | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenylboronic acid | 0.078 mmol, 41 mg, 17% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C=1C=C(C=CC1)B(O)O | C26H24BFN2O6S
